US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester (preparation 6) was reacted with 4-chloromethyl-5-methyl-2-o-tolyl-oxazole to give rac-3-[1-(5-methyl-2-o-tolyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-2-propoxy-propionic acid as light brown oil.

reactant | rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OCCC)=O | C15H19NO3
reactant | 4-chloromethyl-5-methyl-2-o-tolyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)C | C12H12ClNO
product | rac-3-[1-(5-methyl-2-o-tolyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-2-propoxy-propionic acid | CC1=C(N=C(O1)C1=C(C=CC=C1)C)CN1C=CC2=CC(=CC=C12)CC(C(=O)O)OCCC | C26H28N2O4
